US05843942
3-Benzyloxy-2-thienylcarboxylic acid was converted to the corresponding acid chloride which was reacted with ethyl 4-ethylaminobenzoate using a similar method to that of Example 4 to give ethyl 4-[N-(3-benzyloxy-2-thienoyl)-N-ethylamino]benzoate.

reactant | 3-Benzyloxy-2-thienylcarboxylic acid | C(C1=CC=CC=C1)OC1=C(SC=C1)C(=O)O | C12H10O3S
reactant | ethyl 4-ethylaminobenzoate | C(C)NC1=CC=C(C(=O)OCC)C=C1 | C11H15NO2
product | ethyl 4-[N-(3-benzyloxy-2-thienoyl)-N-ethylamino]benzoate | C(C1=CC=CC=C1)OC1=C(SC=C1)C(=O)N(CC)C1=CC=C(C(=O)OCC)C=C1 | C23H23NO4S
